US09233956B2
N-{3-[5-(2-Amino-4-pyrimidinyl)-2-(1,1-dimethylethyl)-1,3-thiazol-4-yl]-2-fluorophenyl}-2-fluorobenzenesulfonamide
Following a procedure analogous to the procedure described in Intermediate 14 using 4-[4-(3-amino-2-fluorophenyl)-2-(1,1-dimethylethyl)-1,3-thiazol-5-yl]-2-pyrimidinamine (0.082 g, 0.239 mmol) and 2-fluorobenzenesulfonyl chloride (0.051 g, 0.263 mmol) the title compound, N-{3-[5-(2-amino-4-pyrimidinyl)-2-(1,1-dimethylethyl)-1,3-thiazol-4-yl]-2-fluorophenyl}-2-fluorobenzenesulfonamide was obtained (66 mg, 0.125 mmol, 52.4% yield). 1H NMR (400 MHz, DMSO-d6) δ ppm 10.57 (s, 1H), 7.98 (d, J=5.3 Hz, 1H), 7.63-7.74 (m, 2H), 7.36-7.46 (m, 2H), 7.32 (t, J=7.4 Hz, 2H), 7.20-7.29 (m, 1H), 6.75 (s, 2H), 5.79 (d, J=5.1 Hz, 1H), 1.40 (s, 9H). MS (ES+): 502 [M+H]+.

reactant | 4-[4-(3-amino-2-fluorophenyl)-2-(1,1-dimethylethyl)-1,3-thiazol-5-yl]-2-pyrimidinamine | 0.239 mmol, 0.082 g | NC=1C(=C(C=CC1)C=1N=C(SC1C1=NC(=NC=C1)N)C(C)(C)C)F | C17H18FN5S
reactant | 2-fluorobenzenesulfonyl chloride | 0.263 mmol, 0.051 g | FC1=C(C=CC=C1)S(=O)(=O)Cl | C6H4ClFO2S
product | N-{3-[5-(2-Amino-4-pyrimidinyl)-2-(1,1-dimethylethyl)-1,3-thiazol-4-yl]-2-fluorophenyl}-2-fluorobenzenesulfonamide | NC1=NC=CC(=N1)C1=C(N=C(S1)C(C)(C)C)C=1C(=C(C=CC1)NS(=O)(=O)C1=C(C=CC=C1)F)F | C23H21F2N5O2S2
